US05516788
v) cis-4b,5,9b,10-tetrahydro-8-ethoxy4b,7,9,9b-tetramethylindeno[1,2-b]indole
To a cold (-78° C.) solution of 2.0 g (0.0063 mol) of 9b,10-dihydro-8-ethoxy-7,9,9b-trimethylindeno[1,2-b]indole in 20 ml of dry tetrahydrofuran, 10 ml of methyllithium (1.6N) in ether was added dropwise with stirring and under argon. After the addition was complete the stirring was continued for 1 hour at -20° C. and then for 1 hour at room temperature. The reaction mixture was quenched by addition of 20 ml of saturated ammonium chloride solution. After addition of 100 ml of ether the organic phase was separated and washed twice with ammonium chloride solution. Drying (Na2SO4) and evaporation gave 2.0 g (96%) of the product. 1H NMR (CDCl3): 1.35 (3H,t), 1.4 (6H,d), 2.1 (3H,s), 2.35 (3H,s), 2.95-3.05 (1H,d), 3.55-3.75 (3H,m), 6.1 (1H,s), 7.0-7.3 (4H,m).

reactant | 9b,10-dihydro-8-ethoxy-7,9,9b-trimethylindeno[1,2-b]indole | 0.0063 mol, 2.0 g | C(C)OC1=C(C=2C3(C(=NC2C=C1C)C1=CC=CC=C1C3)C)C | C20H21NO
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methyllithium | 1.6N, 10 ml | C[Li]
solvent | ether | CCOCC | C4H10O
product | cis-4b,5,9b,10-tetrahydro-8-ethoxy4b,7,9,9b-tetramethylindeno[1,2-b]indole | 2.0 g, 96% | C(C)OC1=C(C=2[C@@]3([C@](NC2C=C1C)(C1=CC=CC=C1C3)C)C)C | C21H25NO
